US05827638
108 g of phenylhydrazine, 205 g of methyl 3-formamidocinnamate, 200 ml of a 28% methanol solution of sodium methoxide and 400 ml of acetonitrile were mixed and heated under reflux for 1 hour in a nitrogen stream. 2 of the reaction solution was poured into water and 100 ml of concentrated hydrochloric acid was added. Then, precipitate was produced. The precipitate was collected by filtration and recrystallized from acetonitrile to obtain 99 g of 1-phenyl-5-(3-formamidophenyl) pyrazolidin-3-one as white crystals.

reactant | phenylhydrazine | 108 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | methyl 3-formamidocinnamate | 205 g | C(=O)NC=1C=C(C=CC(=O)OC)C=CC1 | C11H11NO3
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | water | O | H2O
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
product | 1-phenyl-5-(3-formamidophenyl) pyrazolidin-3-one | 99 g | C1(=CC=CC=C1)N1NC(CC1C1=CC(=CC=C1)NC=O)=O | C16H15N3O2
